US08808964B2
In a nitrogen atmosphere, 107 g of benzyl chlorocarbonate was added dropwise to a solution of 97 g of 2-phenylbenzimidazole and 107 g of 2,6-lutidine in 700 g of tetrahydrofuran, which was heated and stirred at 50° C. for 20 hours. After ordinary aqueous work-up, the insoluble was filtered off. The filtrate was concentrated, washed with hexane, and dried, obtaining 118 g of 1-benzyloxycarbonyl-2-phenylbenzimidazole (yield 72%).

reactant | benzyl chlorocarbonate | 107 g | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | 2-phenylbenzimidazole | 97 g | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC=C2 | C13H10N2
reactant | 2,6-lutidine | 107 g | N1=C(C=CC=C1C)C | C7H9N
solvent | tetrahydrofuran | 700 g | O1CCCC1 | C4H8O
product | 1-benzyloxycarbonyl-2-phenylbenzimidazole | 118 g, yield 72% | C(C1=CC=CC=C1)OC(=O)N1C(=NC2=C1C=CC=C2)C2=CC=CC=C2 | C21H16N2O2
